US06867205B2
5-Aminomethyl-6-(2,4-dichloro-phenyl)-2-(4-methoxy-1-methyl-1H-indol-6-yl)-pyrimidin-4-ylamine
The title compound, MS: m/e=428.0 (M+H+), was prepared from 4-methoxy-1-methyl-1H-indole-6-carboxamidine and 2-(2,4-dichloro-benzylidene)-malononitrile in analogy to the process described in Example 11 as a solid.

reactant | 4-methoxy-1-methyl-1H-indole-6-carboxamidine | COC1=C2C=CN(C2=CC(=C1)C(=N)N)C | C11H13N3O
reactant | 2-(2,4-dichloro-benzylidene)-malononitrile | ClC1=C(C=C(C#N)C#N)C=CC(=C1)Cl | C10H4Cl2N2
product | 5-Aminomethyl-6-(2,4-dichloro-phenyl)-2-(4-methoxy-1-methyl-1H-indol-6-yl)-pyrimidin-4-ylamine | NCC=1C(=NC(=NC1C1=C(C=C(C=C1)Cl)Cl)C1=CC(=C2C=CN(C2=C1)C)OC)N | C21H19Cl2N5O
